* ------< SPICE Library 60GT60BR.LIB Created by SPICEMOD 2.4.6  02/03 >------
**********
*SRC=60GT60BR;60GT60BR;IGBTs;No Diode;APT 600V 100A 61.3NS TO-246
*SYM=IGBT
.SUBCKT 60GT60BR 71 72 73
*     TERMINALS:  C  G  E
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DDS 83 81  DO
DBE 85 81  DE
RC  85 71  9.27M
RE  83 74  927U
RG  72 82  1.5
CGE 82 83  2.95N
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  46.9N
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 17
RLV 95  0  1
ESD 96 93  POLY(1) 83 81 25  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=10.8P NF=1.2 BF=5.1 CJE=48.6N
+ TF=61.3N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=400K THETA=60M ETA=150U VTO=4 KP=95.2)
.MODEL DR D (IS=1.08P CJO=2.6N VJ=1 M=0.82)
.MODEL DO D (IS=1.08P BV=599 CJO=1.76N VJ=1 M=0.7)
.MODEL DE D (IS=1.08P BV=15 N=2)
.MODEL DLIM D (IS=100N)
.ENDS
**********
