* ------< SPICE Library APT60GF120JRD.LIB Created by SPICEMOD 2.4.6  08/03 >------
**********
*SRC=APT60GF120JRD;APT60GF120JRD;IGBTs;Diode;APT 1200V 115A 14NS SOT-227
*SYM=IGBT
.SUBCKT APT60GF120JRD 71 72 73
*     TERMINALS:  C  G  E
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 73 71  DO
RC  85 71  10.7M
RE  83 74  1.07M
RG  72 82  8.79
CGE 82 83  6.64N
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  22.3N
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 2.5
RLV 95  0  1
ESD 96 93  POLY(1) 83 81 21  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=87.6F NF=1.2 BF=5.1 CJE=26.6N
+ CJC=6.38N VJC=1 MJC=0.82 TF=14N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=705K THETA=53.3M ETA=130U VTO=4.5 KP=43.3)
.MODEL DR D (IS=8.76F CJO=6.38N VJ=1 M=0.82)
.MODEL DO D (IS=15.8N RS=20M N=1.4 TT=101N BV=1.2K IBV=250U)
.MODEL DLIM D (IS=100N)
.ENDS
**********
